US08703742B2
7-(3-Benzyloxy-propoxy)-6-methyl-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol
Synthesized according to the methods of general procedure 8 in U.S. Pat. Pub. No. 20090227541 (U.S. patent application Ser. No. 12/142,692) using the following reactants and amounts: 3-(3-benzyloxy-propoxy)-4-methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (1.14 g, 2.78 mmol), nitromethane (0.45 mL, 8.34 mmol), NaOH (0.78 g, 1.95 mmol), THF (3 mL) and water (9 mL). Purification: flash column chromatography (25% EtOAc/hexanes): yield 0.42 g (41%). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.41 (s, 1H), 7.37-7.18 (m, 6H), 7.03 (d, J=7.8 Hz, 1H), 5.69 (dd, J=9.2, 2.5 Hz, 1H), 5.28 (dd, J=13.7, 2.7 Hz, 1H), 4.52 (dd, J=13.3, 9.4 Hz, 1H), 4.46 (s, 2H), 4.33 (t, J=6.1 Hz, 2H), 3.58 (t, J=6.1 Hz, 2H), 2.12 (s, 3H), 2.01-1.87 (m, 2H). MS (ESI): m/z=370 (M−1, negative).

reactant | 3-(3-benzyloxy-propoxy)-4-methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 2.78 mmol, 1.14 g | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C=CC1C)B1OC(C(O1)(C)C)(C)C | C24H31BO5
reactant | nitromethane | 8.34 mmol, 0.45 mL | [N+](=O)([O-])C | CH3NO2
reactant | NaOH | 1.95 mmol, 0.78 g | [OH-].[Na+]
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 9 mL | O | H2O
product | 7-(3-Benzyloxy-propoxy)-6-methyl-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol | C(C1=CC=CC=C1)OCCCOC1=C(C=CC2=C1B(OC2C[N+](=O)[O-])O)C | C19H22BNO6
